US05057524
4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidineheptanoic acid ethyl ester
This compound was prepared according to the procedure used in Example 7. A mixture of 4.6 g (0.015 mole) of α,α-bis(4-fluorophenyl)-4-piperidinemethanol, 3.6 g (0.015 mole) of ethyl 7-bromoheptanoate, 6.4 g (0.061 mole) of anhydrous sodium carbonate and 0.3 g (0.002 mole) of potassium iodide in 50 ml of N,N-dimethylformamide gave 6.0 g of a dark oil. The oil was purified by high pressure liquid chromatography (Waters Associates Prep LC/System 500A; PrepPAK® 500/silica; ethyl acetate; flow rate 150 ml/min). The fractions containing the desired product were combined and concentrated under reduced pressure to yield 2.5 g (44%) of a viscous, yellow oil.

reactant | α,α-bis(4-fluorophenyl)-4-piperidinemethanol | 0.015 mole, 4.6 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | ethyl 7-bromoheptanoate | 0.015 mole, 3.6 g | BrCCCCCCC(=O)OCC | C9H17BrO2
reactant | sodium carbonate | 0.061 mole, 6.4 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.002 mole, 0.3 g | [I-].[K+]
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidineheptanoic acid ethyl ester | 6.0 g | C(C)OC(CCCCCCN1CCC(CC1)C(O)(C1=CC=C(C=C1)F)C1=CC=C(C=C1)F)=O | C27H35F2NO3
